US09359375B2
(R)-4-(1-amino-1-oxo-3-(pyridin-2-yl)propan-2-ylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-(pyridin-2-yl)propanamide (53 mg, 0.133 mmol) in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.5 mL, 0.50 mmol) and aq. H2O2 (50%, 0.5 mL) were added. The mixture was stirred at room temperature for 15 min. HOAc (0.5 mL) was added. The mixture was purified by HPLC to give the titled compound (16 mg). MS 415.1 (M+H); UV 214.4, 278.0, 302.6 nm.

reactant | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-(pyridin-2-yl)propanamide | 0.133 mmol, 53 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC1=NC=CC=C1)F | C19H17FN6OS
reactant | NaOH | 0.50 mmol, 1N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-1-oxo-3-(pyridin-2-yl)propan-2-ylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide | 16 mg | NC([C@@H](CC1=NC=CC=C1)NC1=CC(=C(C(=O)N)C=C1F)NC1=CC(=NS1)C)=O | C19H19FN6O2S
